US07795272B2
To a chilled (−60° C.) solution of 0.31 mL (3.5 mmol) of oxalyl chloride in 5 μL of methylene chloride was added a solution of 0.5 mL (7 mmol) of DMSO in 2.5 mL of dichloromethane. After 10 minutes, a solution of 0.42 g (1.76 mmol) of 2-(4-methyl-6-methylsulfanylchroman-4-yl)ethanol in 2.5 mL of dichloromethane was added. The mixture stirred for 15 minutes and then 1.5 mL (10.6 mmol) of triethylamine was added. The reaction was warmed at room temperature for 30 minutes and then concentrated in vacuo. The residue was diluted with water and extracted with diethyl ether. The combined organic fractions were washed with four portions of water, once with brine, dried over magnesium sulfate, filtered, and concentrated in vacuo to afford 0.4 g (94%) of (4-methyl-6-methylsulfanylchroman-4-yl)acetaldehyde as an oil.

reactant | oxalyl chloride | 3.5 mmol, 0.31 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMSO | 7 mmol, 0.5 mL | CS(=O)C | C2H6OS
reactant | 2-(4-methyl-6-methylsulfanylchroman-4-yl)ethanol | 1.76 mmol, 0.42 g | CC1(CCOC2=CC=C(C=C12)SC)CCO | C13H18O2S
reactant | triethylamine | 10.6 mmol, 1.5 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 5 μL | C(Cl)Cl | CH2Cl2
solvent | dichloromethane | 2.5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 2.5 mL | ClCCl | CH2Cl2
product | (4-methyl-6-methylsulfanylchroman-4-yl)acetaldehyde | 0.4 g, 94% | CC1(CCOC2=CC=C(C=C12)SC)CC=O | C13H16O2S
